US08809342B2
To a solution of 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino) butyl)nicotinic acid (0.100 g, 0.233 mmol) in N,N-dimethylformamide (3.0 mL) was added 1,1′-carbonyldiimidazole (75.6 mg, 0.466 mmol) and N,N-diisopropylethylamine (181 mg, 1.40 mmol). The reaction was stirred for 30 minutes at 80° C. (1H-tetrazol-5-yl)methanamine (80.2 mg, 0.466 mmol) was added and the reaction continued to stir at 80° C. overnight. The reaction was diluted with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by preparative HPLC (column: Boston Analytics Symmetrix ODS-H 150×30 mm, 5 μm; modifier: formic acid 0.225%; gradient: 10 to 80% MeCN in water) gave N-((1H-tetrazol-5-yl)methyl)-6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinamide (15.7 mg, 13%) as a light yellow solid. 1H NMR (400 MHz, CD3OD, δ): 9.35 (m, 1H), 8.98 (s, 1H), 8.15 (d, 1H), 7.72 (d, 4H), 7.50 (d, 1H), 7.35 (d, 2H), 6.64 (m, 3H), 4.75 (d, 2H), 4.55 (m, 1H), 1.75 (m, 2H), 1.55 (m, 1H), 0.95 (d, 3H), 0.85 (d, 3H). MS (M+1): 510.4.

reactant | 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino) butyl)nicotinic acid | 0.233 mmol, 0.100 g | CC(CC(NC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C(=O)O)C=C1)C | C24H23F3N2O2
reactant | 1,1′-carbonyldiimidazole | 0.466 mmol, 75.6 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diisopropylethylamine | 1.40 mmol, 181 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1H-tetrazol-5-yl)methanamine | 0.466 mmol, 80.2 mg | N1N=NN=C1CN | C2H5N5
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | N-((1H-tetrazol-5-yl)methyl)-6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinamide | 15.7 mg, 13% | N1N=NN=C1CNC(C1=CN=C(C=C1)C(CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H26F3N7O
